US07256206B2
To a suspension of AlCl3 (16 mmol) in DCE (20 mL) is added AcCl (8 mmol) in one portion. After stirring at room temperature for 30 minutes, to the solution is added acetic acid 2-acetoxymethyl-2-acetylamino-4-phenyl-butyl ester (2 mmol) in DCE (5 mL). After an additional 30 minutes, the mixture is poured into ice-cold 1 N NaOH and is extracted with DCM. The organic phase is washed with 1 N HCl, brine and dried over Na2SO4. After concentrating, the crude material is purified by column chromatography using EtOAc/hexane (2/1) to give acetic acid 2-acetoxymethyl-2-acetylamino-4-(4-acetyl-phenyl)-butyl ester as a white solid. MS: (ES+): 364.2 (M+1)+.

reactant | AlCl3 | 16 mmol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | AcCl | 8 mmol | C(=O)(C)Cl | C2H3ClO
reactant | acetic acid 2-acetoxymethyl-2-acetylamino-4-phenyl-butyl ester | 2 mmol | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=CC=C1)NC(C)=O | C17H23NO5
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | acetic acid 2-acetoxymethyl-2-acetylamino-4-(4-acetyl-phenyl)-butyl ester | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=C(C=C1)C(C)=O)NC(C)=O | C19H25NO6
